US09029544B2
(1) Ethyl 2′-(3,6-dihydro-2H-pyran-4-yl)-4′-hydroxy-5′-oxo-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carboxylate
Obtained by starting from ethyl 2′-chloro-4′-hydroxy-5′-oxo-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carboxylate. 1,4-Dioxane is used instead of tetrahydrofurane and caesium carbonate instead of sodium carbonate.

reactant | ethyl 2′-chloro-4′-hydroxy-5′-oxo-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carboxylate | ClC1=NC=2CC3(CC(C2C(=C1C(=O)OCC)O)=O)CCC3 | C15H16ClNO4
reactant | caesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-Dioxane | O1CCOCC1 | C4H8O2
product | Ethyl 2′-(3,6-dihydro-2H-pyran-4-yl)-4′-hydroxy-5′-oxo-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carboxylate | O1CCC(=CC1)C1=NC=2CC3(CC(C2C(=C1C(=O)OCC)O)=O)CCC3 | C20H23NO5
